US05061708
A solution of 2-[(2-amino-1,6-dihydro-6-oxo-9H-purin-9-yl)-methoxy]-ethyl-N-[(benzyloxy)carbonyl]-L-isoleucinate (1.11 g, 2.2 mmol) in methanol-tetrahydro furan (1:1, 50 ml) was treated with 0.5N hydrochloric acid (5 ml) and 5% palladium on charcoal (0.30 g; MCB Reagents). The mixture was hydrogenated on a Parr hydrogenator at 50 psi for 11 hours, filtered through a Celite pad and the filtrate was concentrated in vacuo to give 2-[(2-amino-1,6-dihydro-6-oxo-9H-purin-9-yl)methoxy]ethyl-L-isoleucinate hydrochloride (0.86 g, 92%) as an off-white solid; mp 180°-182° C. (effervescent softening ca. 150° C.):

reactant | 2-[(2-amino-1,6-dihydro-6-oxo-9H-purin-9-yl)-methoxy]-ethyl-N-[(benzyloxy)carbonyl]-L-isoleucinate | 2.2 mmol, 1.11 g | NC=1NC(C=2N=CN(C2N1)COCCN([C@@H]([C@@H](C)CC)C(=O)[O-])C(=O)OCC1=CC=CC=C1)=O
reactant | hydrochloric acid | 0.5N, 5 ml | Cl | ClH
solvent | methanol tetrahydro furan | 50 ml | CO.O1CCCC1
catalyst | palladium on charcoal | 0.30 g | [Pd] | Pd
product | 2-[(2-amino-1,6-dihydro-6-oxo-9H-purin-9-yl)methoxy]ethyl-L-isoleucinate hydrochloride | 0.86 g, 92% | Cl.NC=1NC(C=2N=CN(C2N1)COCCN[C@@H]([C@@H](C)CC)C(=O)O)=O | InChI=1S/C14H22N6O4.ClH/c1-3-8(2)9(13(22)23)16-4-5-24-7-20-6-17-10-11(20)18-14(15)19-12(10)21;/h6,8-9,16H,3-5,7H2,1-2H3,(H,22,23)(H3,15,18,19,21);1H/t8-,9-;/m0./s1
